US06057452
(4S,5R)-N-(t-Butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester
N-(t-butylaminocarbonyl)-β-phenyl isoserine methyl ester (PREPARATION 1, 68 mg, 0.23 mM) is dissolved in dry THF (5 mL) and the solution treated with 2,4-dimethoxy benzaldehyde dimethyl acetal (70 mg, 0.33 mM) and pyridinium p-toluenesulfonate (6 mg, 0.02 mM) and the mixture warmed to reflux. Approximately 2 mL solvent is boiled away 3 times in a 45 minute period replenishing with 2 mL of fresh THF at which time TLC shows no starting material. The solvent is concentrated under reduced pressure and chromatographed (7 g of silica gel packed in ethyl acetate/1hexane, 1/3; elution with 80 mL ethyl acetate/hexane, 1/3; 45 mL ethyl acetate/hexane, 1/2; 30 mL ethyl acetate/hexane, 2/3 and 30 mL ethyl acetate/hexane, 1/1) to give the title compound: less polar isomer found in fractions 21-31--NMR (CDCl3, TMS) 1.19, 3.82, 3.85, 3.89, 4.68, 4.88, 5.52, 6.46, 6.70 and 7.25-7.50 δ, MS (FAB-High Res.) theory for C24H31N2O6 +H=443.2182, found=443.2172; more polar isomer in fractions 33-42--NMR (CDCl3, TMS) 0.99, 3.53, 3.81, 3.88, 4.05, 4.55, 5.45, 6.48, 6.79 and 7.25-7.50 δ; MS (FAB-High Res.) theory for C24H31N2O6 +H=443.2182, found=443.2180.

reactant | N-(t-butylaminocarbonyl)-β-phenyl isoserine methyl ester | 0.23 mM, 68 mg | COC(C(C(NC(=O)NC(C)(C)C)C1=CC=CC=C1)O)=O | C15H22N2O4
reactant | 2,4-dimethoxy benzaldehyde dimethyl acetal | 0.33 mM, 70 mg | COC(C1=C(C=C(C=C1)OC)OC)OC | C11H16O4
reactant | pyridinium p-toluenesulfonate | 0.02 mM, 6 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4S,5R)-N-(t-Butylaminocarbonyl)-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](N(C(O1)C1=C(C=C(C=C1)OC)OC)C(=O)NC(C)(C)C)C1=CC=CC=C1 | C24H30N2O6
